US09278944B2
To a solution of ethyl 1-(3-methoxypropyl)-3-vinyl-1H-pyrrolo[3,2-c]pyridine-6-carboxylate (460 mg) in ethanol (9 mL) was added 10% palladium on carbon (92 mg), and the mixture was stirred under hydrogen for 1 hour. An insoluble was filtered off, and then the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=9/1→1/1) to give ethyl 3-ethyl-1-(3-methoxypropyl)-1H-pyrrolo[3,2-c]pyridine-6-carboxylate [REx(106-2)] (294 mg) as a yellow oil.

reactant | ethyl 1-(3-methoxypropyl)-3-vinyl-1H-pyrrolo[3,2-c]pyridine-6-carboxylate | 460 mg | COCCCN1C=C(C=2C=NC(=CC21)C(=O)OCC)C=C | C16H20N2O3
solvent | ethanol | 9 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 92 mg | [Pd] | Pd
product | ethyl 3-ethyl-1-(3-methoxypropyl)-1H-pyrrolo[3,2-c]pyridine-6-carboxylate | 294 mg | C(C)C1=CN(C2=C1C=NC(=C2)C(=O)OCC)CCCOC | C16H22N2O3
